US07208140B2
a) 2,4,6-Triiodo-1,3,5-tris-(2-tert-butoxycarbonylaminoethoxymethyl)benzene
142 g (450 mmol) of toluenesulfonic acid-2-tert-butoxycarbonylaminoethyl ester (Canne et al., Tetrahedron Letters, 38, 1997, 3361), dissolved in 250 ml of toluene, is added in drops to a mixture that consists of 50.0 g (91.4 mmol) of 1,3,5-triiodo-2,4,6-trishydroxymethylbenzene, and 3 g (8.7 mmol) of tetrabutylammonium hydrogen sulfate in 200 ml of 32% NaOH solution and 300 ml of toluene at room temperature, and then it is stirred for 12 hours. It is mixed with water and extracted twice with 300 ml each of toluene. The combined organic phases are dried on sodium sulfate, the solvent is evaporated to the dry state and chromatographed on silica gel (mobile solvent:hexane/ethyl acetate 10:1). The fractions that contain the product are combined and concentrated by evaporation.

reactant | toluenesulfonic acid-2-tert-butoxycarbonylaminoethyl ester | 450 mmol, 142 g | C(C)(C)(C)OC(=O)NCCOS(=O)(=O)C=1C(=CC=CC1)C | C14H21NO5S
reactant | 1,3,5-triiodo-2,4,6-trishydroxymethylbenzene | 91.4 mmol, 50.0 g | IC1=C(C(=C(C(=C1CO)I)CO)I)CO | C9H9I3O3
reactant | water | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium hydrogen sulfate | 8.7 mmol, 3 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | NaOH | 200 ml | [OH-].[Na+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4,6-Triiodo-1,3,5-tris-(2-tert-butoxycarbonylaminoethoxymethyl)benzene | IC1=C(C(=C(C(=C1COCCNC(=O)OC(C)(C)C)I)COCCNC(=O)OC(C)(C)C)I)COCCNC(=O)OC(C)(C)C | C30H48I3N3O9
